* C:\Users\monts\OneDrive\Documentos\Escuela\Cinvestav\Primer Cuatrimestre\RFI\Proyecto\NetlistSpice\PasaBajasConcentrados.asc
SSC1 N001 N002 56.54 45 1E9
C1 N002 0 17p
.backanno
.end
